### PR TITLE
[Merged by Bors] - feat: More additive energy lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
Also rename `additiveEnergy`/`multiplicativeEnergy` to `addEnergy`/`mulEnergy`.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 1]
```diff
@@ -120,6 +122,53 @@
...
+    Eₘ[s, t] = ∑ a in s * t, ((s ×ˢ t).filter fun (x, y) ↦ x * y = a).card ^ 2 := by
+  simp_rw [multiplicativeEnergy_eq_card_filter, sq, ← card_product]
+  rw [← card_disjiUnion]
+  -- The `swap`, `ext` and `simp` calls significantly reduce heartbeats
+  swap
+  · simp [Set.PairwiseDisjoint, Set.Pairwise, disjoint_left]
+    aesop
+  · congr
+    ext
+    simp
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:142]: False positive. Ignoring.

**Review by TFBloom — APPROVED** [review]
Mathematically this all looks good, definitions and statements of lemmas are correct and agree with what's used in the literature.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 2]
```diff
@@ -45,6 +41,17 @@ def multiplicativeEnergy (s t : Finset α) : ℕ :=
 #align finset.multiplicative_energy Finset.multiplicativeEnergy
 #align finset.additive_energy Finset.additiveEnergy
 
+@[inherit_doc multiplicativeEnergy] notation3:max "Eₘ[" s ", " t "]" => multiplicativeEnergy s t
+@[inherit_doc additiveEnergy] notation3:max "E[" s ", " t "]" => additiveEnergy s t
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Additive/Energy.lean:45]: Could you scope these notations and the next ones? They are a little bit too generic to be always active. Also, maybe write `Finset.multiplicativeEnergy s t` to avoid issues when `Finset` is not open.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 3]
```diff
@@ -45,6 +41,17 @@ def multiplicativeEnergy (s t : Finset α) : ℕ :=
...
+
+/-- The multiplicative energy of a finset `s` in a group is the number of quadruples
+`(a₁, a₂, b₁, b₂) ∈ s × s × s × s` such that `a₁ * b₁ = a₂ * b₂`. -/
+notation3:max "Eₘ[" s "]" => Finset.multiplicativeEnergy s s
+
+/-- The additive energy of two finsets `s` and `t` in a group is the number of quadruples
+`(a₁, a₂, b₁, b₂) ∈ s × s × s × s` such that `a₁ + b₁ = a₂ + b₂`. -/
+notation3:max "E[" s "]" => Finset.additiveEnergy s s
+
 @[to_additive additiveEnergy_mono]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Additive/Energy.lean:55]: instead of writing down everywhere the `to_additive` name, could you register in the relevant file that `multiplicativeEnergy` should always be additivized to `additiveEnergy`?

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 4]
```diff
@@ -45,6 +41,17 @@ def multiplicativeEnergy (s t : Finset α) : ℕ :=
...
 theorem multiplicativeEnergy_mono (hs : s₁ ⊆ s₂) (ht : t₁ ⊆ t₂) :
     multiplicativeEnergy s₁ t₁ ≤ multiplicativeEnergy s₂ t₂ :=
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Additive/Energy.lean:57]: Could you use the notations you have just introduced, even in preexisting lemmas? I promiss that I will review your PR anyway, so it's not a problem if it makes the file longer.

File: Mathlib/Combinatorics/Additive/Energy.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:55]: Truth is I want to rename `additiveEnergy`/`multiplicativeEnergy` to `addEnergy`/`mulEnergy`, which is why I didn't want to hardcode the translation.

Since you raised that up, I will perform the rename now.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 5]
```diff
@@ -14,62 +16,77 @@ import Mathlib.Data.Fintype.Prod
...
-
 variable [Mul α] {s s₁ s₂ t t₁ t₂ : Finset α}
+
 /-- The multiplicative energy of two finsets `s` and `t` in a group is the number of quadruples
 `(a₁, a₂, b₁, b₂) ∈ s × s × t × t` such that `a₁ * b₁ = a₂ * b₂`. -/
-@[to_additive additiveEnergy
+@[to_additive
       "The additive energy of two finsets `s` and `t` in a group is the
       number of quadruples `(a₁, a₂, b₁, b₂) ∈ s × s × t × t` such that `a₁ + b₁ = a₂ + b₂`."]
-def multiplicativeEnergy (s t : Finset α) : ℕ :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Additive/Energy.lean:43]: Please mention this rename in the PR description.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 6]
```diff
@@ -14,62 +16,77 @@ import Mathlib.Data.Fintype.Prod
...
-@[to_additive le_additiveEnergy]
-theorem le_multiplicativeEnergy : s.card * t.card ≤ multiplicativeEnergy s t := by
+#align finset.multiplicative_energy Finset.mulEnergy
+#align finset.additive_energy Finset.addEnergy
+
+@[inherit_doc Finset.mulEnergy]
+scoped[AddCombi] notation3:max "Eₘ[" s ", " t "]" => Finset.mulEnergy s t
+
+@[inherit_doc Finset.addEnergy]
+scoped[AddCombi] notation3:max "E[" s ", " t "]" => Finset.addEnergy s t
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Additive/Energy.lean:61]: If these are going to `inherit_doc`, then please mention the notation in the doc for the declarations.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 7]
```diff
@@ -14,62 +16,77 @@ import Mathlib.Data.Fintype.Prod
...
 additive combinatorics.
 
+## Main declarations
+
+* `Finset.addEnergy`: The additive energy of two finsets in an additive group.
+* `Finset.mulEnergy`: The multiplicative energy of two finsets in a group.
+
+## Notation
+
+The following notations are defined in the `AddCombi` scope:
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Additive/Energy.lean:26]: Is there precedent for `AddCombi`? Given this is written just once in a file, I'd suggest the longer `AdditiveCombinatorics`, though `mulEnergy` suggests that `PointwiseCombinatorics` might be more apt.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: This is the first use. There will probably be more uses, though

Comment (eric-wieser) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: In that case I think you should at least spell out `Combinatorics` in full. How about `open scoped Combinatorics.Pointwise`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: `Pointwise` is really misguided here. Additive combinatorics is wider than just the study of sumsets, and sumsets do not only show up in additive combinatorics, even within combinatorics.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: In that case, perhaps `open scoped Combinatorics.Additive`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: "Arithmetic combinatorics" is a term that's sometimes used to include both addition and multiplication, but personally I think "Additive combinatorics" is plenty clear

File: Mathlib/Combinatorics/Additive/Energy.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean]: I don't really understand this comment: Now that I've mentioned the notation in the docstring, I can't use `inherit_doc` anymore since it would make the notation hover explain how to get the notation working!

File: Mathlib/Combinatorics/Additive/Energy.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/Energy.lean:26]: > In that case, perhaps `open scoped Combinatorics.Additive`?

Yes that's what I renamed it to

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 8]
```diff
@@ -14,62 +16,82 @@ import Mathlib.Data.Fintype.Prod
...
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Additive/Energy.lean:26]: Can you fix `AddCombi`?

**Review by sgouezel — COMMENTED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Combinatorics/Additive/Energy.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/Additive/Energy.lean]: I think that's a good thing? Just because the scope is open doesn't mean the reader knows which scope is the one responsible. If I'm making a new file, the hover on the notation in your file will tell me how to get access to it myself.
